US06699910B2
A solution of lithium diisopropylamide (LDA, 2.0 M in heptane/THF, ethyl benzene, 42.2 mL, 84.4 mmol) was added drop-wise to a solution of ethyl isobutyrate (9.78 g, 84.3 mmol) in anhydrous THF (30 mL) at −78° C. The mixture was allowed to stir at −78° C. for 1 h, before 3,3′-bis(bromomethyl)benzophenone ((prepared according to Shultz, D. A.; Fox, M. A. J. Am. Chem. Soc. 1989, 16, 6311, from 3-bromobenzyl methyl ether (Friedman, L.; Shechter, H. J. Org. Chem. 1961, 26, 2522), 10.34 g, 28.1 mmol) was added, followed by addition of DMPU (2.7 g, 17 mmol). The mixture was stirred for 30 min at −78° C., allowed to warm to rt, and stirred for 30 min. The THF was removed under reduced pressure and the residue was diluted with saturated NH4Cl (280 mL). The aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine (200 mL), 5% HCl (100 mL), and saturated NaHCO3 solution (50 mL), then dried over anhydrous Na2SO4 and concentrated in vacuo to furnish 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethyl -prop ionic acid ethyl ester (11.0 g, 90%) as an oil. 1H NMR (300 MHz, CDCl3): δ (ppm): 7.8-7.2 (m, 8H), 3.98 (q, J=6.9 Hz, 4H), 2.83 (s, 4H), 1.2-0.8 (m, 18H). 13C NMR (75 MHz, CDCl3): δ (ppm): 196.5, 176.8, 138.1, 137.2, 134.0, 131.4, 128.1, 127.7, 60.3, 45.7, 43.3, 24.8, 13.9.

reactant | lithium diisopropylamide | 84.4 mmol, 2.0 M, 42.2 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl isobutyrate | 84.3 mmol, 9.78 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | 3,3′-bis(bromomethyl)benzophenone | BrCC=1C=C(C(=O)C2=CC(=CC=C2)CBr)C=CC1 | C15H12Br2O
reactant | 3-bromobenzyl methyl ether | COCC1=CC(=CC=C1)Br | C8H9BrO
reactant | DMPU | 17 mmol, 2.7 g | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethyl -prop ionic acid ethyl ester | 11.0 g, 90% | C(C)OC(C(CC1=CC(=CC=C1)C(C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
